US07728029B2
Cyclopentyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (0.237 g, 0.858 mmol) was dissolved in methanol (2.0 mL). Water (2.0 mL) and lithium hydroxide (0.027 g, 1.127 mmol) were added and the mixture was heated at 80° C. for 2 hours. After cooling to room temperature, the methanol was removed in vacuo. THF was added to the residue and then removed in vacuo to insure complete removal of the methanol. 6N HCl (0.2 mL) was added to the aqueous residue to pH 2-3 resulting in precipitation of a white solid. The solid was collected by filtration, washed with water and dried under high vacuum at 100° C. to give 1-cyclopentyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (0.134 g, 63%).

reactant | Cyclopentyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.858 mmol, 0.237 g | C(C)OC(=O)C=1C=NN(C1C(F)(F)F)C1CCCC1 | C12H15F3N2O2
reactant | Water | 2.0 mL | O | H2O
reactant | lithium hydroxide | 1.127 mmol, 0.027 g | [OH-].[Li+]
solvent | methanol | 2.0 mL | CO | CH4O
product | 1-cyclopentyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid | 0.134 g, 63% | C1(CCCC1)N1N=CC(=C1C(F)(F)F)C(=O)O | C10H11F3N2O2
